Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
soy
 
Attending: ___.
 
Chief Complaint:
Allergic reaction
 
Major Surgical or Invasive Procedure:
Laryngoscopy

 
History of Present Illness:
The patient is a ___ past medical history of oral allergy 
syndrome who presents as a transfer for an allergic reaction.  
The patient has a history of itching with certain foods she has 
never had an anaphylactic reaction.  She is allergic to soy and 
incidentally ate something with it yesterday ___, resulting 
in hives, upset stomach,  tingling and swollen mouth.  She tried 
Benadryl at home but eventually went to ___ where she 
received Benadryl and steroids.  Her symptoms worsen leading her 
to voice changes particularly of deeper voice.  Given concern 
she received IM epinephrine ×3 and was transferred to be ___ 
___ for ENT evaluation.  ___ she also received 
Solu-Medrol, Benadryl, and Ativan.  She denied problems 
secretions and denies shortness of breath.  During the initial 
episode she did endorse some chest tightness.

ENT was consulted and performed fiberoptic exam, unrevealing of 
any edema.  They did not recommend steroids.

On my evaluation, the patient appears well and endorses nearly 
feeling back to baseline, just a little "hung over" from the 
epinephrine. 

In ED initial VS:  98.2 140 143/80 24 97% RA 
Labs significant for: White count 15.1
Consults:  ENT

 
Past Medical History:
Allergy to soy
 
Social History:
___
Family History:
Father has anaphylaxis to shellfish
 
Physical Exam:
ADMISSION PE:
============

GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear.  Airway clear.  
No uvular edema herpes on right eyelid
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No apparent rashes
NEURO: Face symmetric, tongue midline, sensation grossly intact

DISCHARGE PE:
============

GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear.  Airway clear.  
No uvular edema herpes on right eyelid
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Heart rate of 80, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No apparent rashes
NEURO: Face symmetric, tongue midline, sensation grossly intact
 
Pertinent Results:
ADMISSION LABS:
==============
___ 04:53AM BLOOD WBC-15.9* RBC-4.38 Hgb-11.9 Hct-36.9 
MCV-84 MCH-27.2 MCHC-32.2 RDW-13.2 RDWSD-40.6 Plt ___
___ 01:25AM BLOOD Neuts-91.0* Lymphs-6.3* Monos-1.4* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-16.42* AbsLymp-1.14* 
AbsMono-0.25 AbsEos-0.01* AbsBaso-0.06
___ 04:53AM BLOOD Glucose-152* UreaN-8 Creat-0.5 Na-140 
K-4.7 Cl-105 HCO3-21* AnGap-14
___ 04:53AM BLOOD Calcium-9.6 Phos-2.6* Mg-2.1
___ 04:36AM BLOOD Comment-GREEN TOP 

DISCHARGE LABS:
===============

___ 04:53AM BLOOD WBC-15.9* RBC-4.38 Hgb-11.9 Hct-36.9 
MCV-84 MCH-27.2 MCHC-32.2 RDW-13.2 RDWSD-40.6 Plt ___
___ 01:25AM BLOOD Neuts-91.0* Lymphs-6.3* Monos-1.4* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-16.42* AbsLymp-1.14* 
AbsMono-0.25 AbsEos-0.01* AbsBaso-0.06
___ 04:53AM BLOOD Glucose-152* UreaN-8 Creat-0.5 Na-140 
K-4.7 Cl-105 HCO3-21* AnGap-14
___ 04:53AM BLOOD Calcium-9.6 Phos-2.6* Mg-2.1
___ 04:36AM BLOOD Comment-GREEN TOP 
 
Brief Hospital Course:
The patient is a ___ year old woman with a history of oral 
allergy syndrome who presented to ___ as a transfer for an 
allergic reaction and airway monitoring. She has a history of 
itching with certain foods (notably soy), but has never had an 
anaphylactic reaction. She was originally at ___ in ___, 
where she had a concerning change in her voice. She was given IM 
epinepherin x3 and was transferred to ___ for 
evaluation. Here, she received Solu-Medrol, Benadryl and Ativan. 
She was seen by ENT, who conducted a fiberoptic exam and found 
no edema. 

Assessment:
___ female with history of oral allergy syndrome from 
presents with allergic reaction concerning for angioedema.

# Anaphylaxis/Acute Allergic Angioedema: Patient had a reaction 
to soy products resulting in hives, mouth tingling, and voice 
change. ENT evaluation has ruled out any angioedema. They do not 
recommend 
steroids at this time. The patient was given an Epipen at 
discharge, was treated with steroids in the ED and was 
prescribed one more dose of prednisone 10mg x1 on ___, 
Benadryl and ranitidine as needed. A serum tryptase was sent and 
was pending at discharge. Patient has scheduled outpatient 
appointments with her PCP and with allergy.

# Tachycardia: Improved, suspect this was epinephrine-mediated. 

#Depression/anxiety
–Continue buspirone and Zoloft

#Transitional issues:
-Follow up serum tryptase
-Follow up with allergist

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 10 mg PO BID 
2. Sertraline 100 mg PO DAILY 
3. ValACYclovir 1000 mg PO Q24H 

 
Discharge Medications:
1.  DiphenhydrAMINE 25 mg PO Q6H:PRN allergic reaction  
2.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis 
Duration: 1 Dose 
RX *epinephrine 0.3 mg/0.3 mL 0.3 mg IM As needed Disp #*1 Kit 
Refills:*1 
3.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
RX *prednisone 20 mg 1 tablet(s) by mouth Daily Disp #*1 Tablet 
Refills:*0 
4.  Ranitidine 150 mg PO DAILY  
5.  BusPIRone 10 mg PO BID  
6.  Sertraline 100 mg PO DAILY  
7.  ValACYclovir 1000 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Allergic reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital when you started to develop 
some itchiness in your throat after eating a soy product. You 
were brought the ___ in ___ where they were concerned 
that this allergic reaction might cause your airway to swell up. 
You were given some medications to help with this. You were 
transferred to ___ in ___ where our ear nose and throat 
specialists evaluated you. They did not see any evidence of 
swelling in your airway. 

When you were stable, and were breathing comfortably, you were 
discharged home with a short course of medications to ensure 
that this was completely resolved.  You should follow-up with an 
allergist after leaving the hospital, as outlined below.
 
Followup Instructions:
___